Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
jaundice, pruritus, ___ stools
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ year old female with UC on ___, prednisone, and humira who 
presented with jaundice and pruritis. 

Recently started Humira for ___ on ___. Then on ___ to ___ 
of this week she noticed some generalized pruritus. On ___ 
she noticed her stools were light in color. Then today she 
noticed yellowing of her eyes.

She denies any abdominal pain, diarrhea, constipation, fevers, 
or other symptoms.

Her ulcerative colitis was diagnosed in ___ and she had two 
severe flares in ___. She had been relatively stable on ___ 
until recently when she had another flare in ___ and biopsy 
revealed active colitis. At that time decision was made to start 
Humira. 

In the ED, initial vitals: 98.9 101 126/81 20 100% RA  
 - Exam notable for: jaundice 
 - Labs notable for: ALT 190, AST 103, AP 120, Tbili 5.8 (Dbili 
4.8), albumin 3.0. Normal coags, normal CBC. Hepatitis 
serologies negative 
 - Imaging notable for: RUQ US with nonspecific subtle 
prominence of the portal triads, minimal prominence of the 
intrahepatic biliary tree without frank dilatation 
 - Patient not given anything in the ED

On arrival to the floor, initial vitals were 97.9 124/81 85 18 
96 RA. 

 
Past Medical History:
Ulcerative colitis on ___, steroids, recently started Humira
 
Social History:
___
Family History:
heart murmur (sister, resolved spontaneously) and pancreatic 
cancer (paternal grandmother, early ___ 
 
Physical Exam:
ADMISSION EXAM
==============
Vitals: 97.9 124/81 85 18 96 RA
General: Alert, oriented, no acute distress  
HEENT: Scleral icterus, MMM
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended
Ext: Warm, well perfused, no cyanosis or edema  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact.

DISCHARGE EXAM
===============
Vitals-  Tmax/current 98.3/98.4 BP 103-114/68-77 HR ___ RR 18 
96 RA
General- Alert, oriented, no acute distress  
HEENT- Mild sclera icterus, dry mucus membrane, oropharynx 
clear. Yellow discoloration under tongue.   
Lungs- Clear to auscultation bilaterally
CV- Regular rate and rhythm, normal S1 + S2
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding
GU- no foley  
Ext- Slightly diffuse yellow-ish skin, warm, well perfused, 2+ 
pulses, no clubbing, cyanosis or edema  
Neuro- CNs2-12 intact, motor function grossly normal 
 
Pertinent Results:
ADMISSION LABS
===============
___ 05:40PM   ___ PTT-30.8 ___
___ 05:40PM   PLT COUNT-381
___ 05:40PM   NEUTS-76.0* LYMPHS-16.8* MONOS-5.9 EOS-0.0* 
BASOS-0.7 IM ___ AbsNeut-5.26 AbsLymp-1.16* AbsMono-0.41 
AbsEos-0.00* AbsBaso-0.05
___ 05:40PM   WBC-6.9 RBC-3.67* HGB-13.4 HCT-40.0 MCV-109* 
MCH-36.5* MCHC-33.5 RDW-13.4 RDWSD-53.9*
___ 05:40PM   VoidSpec-GROSSLY HE
___ 06:45PM   HCV Ab-Negative
___ 06:45PM   ACETMNPHN-NEG
___ 06:45PM   HBsAg-Negative HBs Ab-Positive HBc 
Ab-Negative HAV Ab-Negative IgM HBc-Negative IgM HAV-Negative
___ 06:45PM   ALBUMIN-3.0*
___ 06:45PM   LIPASE-45
___ 06:45PM   ALT(SGPT)-190* AST(SGOT)-103* ALK PHOS-120* 
TOT BILI-5.8* DIR BILI-4.8* INDIR BIL-1.0
___ 06:45PM   estGFR-Using this
___ 06:45PM   GLUCOSE-81 UREA N-16 CREAT-0.6 SODIUM-137 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-23 ANION GAP-18
___ 09:40PM URINE  GR HOLD-HOLD
___ 09:40PM URINE  UCG-NEGATIVE

DISCHARGE LABS
===============
___ 06:19AM BLOOD WBC-5.5 RBC-3.26* Hgb-11.9 Hct-35.8 
MCV-110* MCH-36.5* MCHC-33.2 RDW-14.7 RDWSD-59.7* Plt ___
___ 06:19AM BLOOD Plt ___
___ 06:19AM BLOOD ___ PTT-33.5 ___
___ 06:19AM BLOOD Glucose-81 UreaN-26* Creat-0.6 Na-139 
K-4.0 Cl-100 HCO3-26 AnGap-17
___ 06:19AM BLOOD ALT-155* AST-92* LD(LDH)-203 AlkPhos-148* 
TotBili-3.1*
___ 06:19AM BLOOD Albumin-3.0* Calcium-8.3* Phos-4.0 
Mg-1.5*

OTHER RELEVANT LABS
==================
- Thiopurine metabolites within normal limits except:
___ MMP                         ___  H            
- Ceruloplasmin - wnl
- Alpha 1 antitrypsin - wnl

IMAGING 
===============
1.  Mild central intrahepatic biliary ductal dilatation, left 
greater than 
right with mild narrowing of the left hepatic duct at its 
takeoff from the 
common hepatic duct, as well as slight irregularity of the 
intrahepatic bile 
ducts.  Findings are concerning for primary sclerosing 
cholangitis in this 
patient with underlying ulcerative colitis. No evidence of 
active inflammation 
or extrahepatic biliary ductal dilatation.  No evidence of 
cholelithiasis or 
choledocholithiasis. 
  
2.  Two geographic, non masslike areas of parenchymal signal 
abnormality in 
segments ___, suggestive of early fibrosis or focal iron 
deposition.  No 
worrisome hepatic lesion.  These findings may be reassessed on 
follow-up MRCP 
of the pancreas (see below). 
  
4.  1.0 x 0.8 cm cystic lesion in the pancreatic head, as well 
as multiple 
other scattered subcentimeter cystic lesions throughout the 
pancreas, most 
compatible with side-branch IPMNs.  Follow-up MRCP in 6 months 
is recommended 
per departmental protocol. 
  
RECOMMENDATION(S):  Follow-up MRCP of the pancreas in 6 months, 
also to 
include the entire liver. 
 
Brief Hospital Course:
___ year-old woman with ___ year history of ulcerative colitis on 
___ w/ a 2 month treatment of Humira and prednisone taper, 
presented with jaundice and pruritus. She also reported 
___ stools. She was was found to have transaminitis and 
hyperbilirubinemia. 

She was evaluated by GI who felt that this was due to medication 
effect, i.e. altered metabolism of her ___ or Humira, so both of 
these medications were held.  MRCP was done which showed 
evidence of PSC along with pancreatic lesions that a follow-up 
MRCP in 6 months. She was discharged with outpatient follow-up 
by GI and hepatology. She was given ursodiol for PSC and 
pruritis. 

# Jaundice, hepatitis:  Likely due to primary sclerosing 
cholangitis with possible contribution from drug effect
# Primary sclerosing cholangitis (PSC):  Newly diagnosed
Patient was noted to have significant hyperbilirubinemia along 
with transaminitis in the 100s (ALT > AST). More of a 
cholestatic picture. No CBD dilation seen on RUQ US. Albumin low 
but had normal coags indicating likely intact synthetic 
function. Could be drug related reaction although reports of 
transaminitis on Humira are somewhat rare other than cases of 
viral hepatitis reactivation (less likely given modest elevation 
in ALT, AST, and AP). All HAV, HBV, and HCV, EBV serologies were 
negative indicating no prior exposure apart from positive HbSAb 
consistent with vaccination. Autoimmune serologies also negative 
___, AMA, ___. ___ MP and Humira held due to concern of 
medication induced hepatitis vs. unmasking of autoimmune 
hepatitis. MRCP done with findings concerning for PSC. Will need 
liver biopsy outpatient for staging. Also has cystic lesion on 
pancreas which will need f/u MRCP in 6 months which visualizes 
the pancreas and liver. LFTs trending down on discharge. GI 
recommended outpatient follow-up with Dr. ___ hepatology. 
Discharged with Benadryl and Ursodiol for pruritus and PSC.

# Ulcerative colitis: Diagnosed in ___, with recent relapse in 
___ leading to initiation of Humira as above. No evidence of 
current flare. We continued home prednisone and held ___ and 
Humira upon discharge.

# GERD: developed on prednisone.  Continued home omeprazole.

# Macrocytosis w/o anemia: Stable. Likely ___ medication induced 
hematologic toxicity from ___. 

# Hypoalbumiemia, mild. Given normal INR, less likely to be 
related to hepatic injury. In the setting of chronic diarrhea, 
might be related to UC flares. 

# Hypocalcemia, low-end of normal after correcting for 
hypoalbumiemia. 

TRANSITIONAL ISSUES
====================
- Humira and ___ held - restart after outpatient GI/hepatology 
follow-up
- Thiopurine metabolite levels pending at discharge
---- At the time this discharge summary was signed, the results 
returned and were notable for elevated ___.  I have e-mailed 
her outpatient GI and hepatologist to alert them to this 
finding, as she was recently instructed to restart ___, and they 
confirmed that they were aware of this and the patient was 
started on ___ her prior dose of ___ accordingly
- 1.0 x 0.8 cm cystic lesion in the pancreatic head, as well as 
multiple other scattered subcentimeter cystic lesions throughout 
the pancreas, most compatible with side-branch IPMNs. Follow-up 
MRCP in 6 months is recommended of the pancreas and to include 
the entire liver.
- Outpatient follow-up with Dr. ___ hepatology to be 
arranged by Dr. ___. 
- Will need liver biopsy outpatient 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO EVERY OTHER DAY 
2. Mercaptopurine 100 mg PO DAILY 
3. norgestimate-ethinyl estradiol 0.18/0.215/0.25 mg-35 mcg (28) 
oral DAILY 
4. adalimumab 40 mg/0.8 mL subcutaneous Q2WEEKS 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  DiphenhydrAMINE 25 mg PO Q6H:PRN pruritus  
RX *diphenhydramine HCl 25 mg 1 capsule(s) by mouth Q6H PRN 
pruritus Disp #*30 Capsule Refills:*0 
2.  Ursodiol 300 mg PO BID 
RX *ursodiol 300 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
3.  Multivitamins 1 TAB PO DAILY  
4.  norgestimate-ethinyl estradiol 0.18/0.215/0.25 mg-35 mcg 
(28) oral DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  PredniSONE 5 mg PO EVERY OTHER DAY  
7. HELD- adalimumab 40 mg/0.8 mL subcutaneous Q2WEEKS  This 
medication was held. Do not restart adalimumab until cleared by 
GI/hepatology
8. HELD- Mercaptopurine 100 mg PO DAILY Duration: 1 Dose  This 
medication was held. Do not restart Mercaptopurine until cleared 
by GI/hepatology

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Medication-induced hepatitis
Primary sclerosing cholangitis

Secondary diagnoses
Ulcerative colitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ with jaundice and itching of the 
skin. Your lab studies showed your liver studies were elevated 
causing your symptoms. You were evaluated by the 
gastroenterology specialists who felt that this was because of 
your ulcerative colitis medications. You had a procedure called 
an MRCP done which showed a condition called primary sclerosing 
cholangitis which also may be contributing to your symptoms. We 
recommended outpatient follow-up with Dr. ___ the liver 
specialists as your liver enzymes were trending towards normal. 
It was a pleasure taking care of you!

We wish you the best,

Your ___ Team
 
Followup Instructions:
___